US07820663B2
α-[[(4-Ethoxyphenyl)amino]methylene]-β-oxo-N-phenylbenzenepropanamide
α-[(Dimethylamino)methylene]-β-oxo-N-phenylbenzenepropanamide. A solution of 2-benzoylacetanilide (Aldrich; 1.088 g, 4.55 mmol) in 15 mL of CH2Cl2 was treated with neat N,N-dimethylformamide dimethyl acetal (0.75 mL, 670 mg, 5.63 mmol). The reaction was allowed to stir at rt overnight. Concentration in vacuo gave a solid that was adsorbed onto 3.3 g of silica gel and added to 17 cm of flash silica gel in a 5 cm dia. column. Elution with 2 L of 4:1 EtOAc/hexanes afforded 797 mg (61%) of the desired compound as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 10.70 (br s, 1H), 7.64 (d, 2H, J=8.1 Hz), 7.59 (d, 2H, J=7.3 Hz), 7.48 (t, 1H, J=6.8 Hz), 7.44 (s, 1H), 7.42 (t, 1H, J=7.0 Hz), 7.30 (t, 2H, J=8.0 Hz), 7.04 (t, 1H, J=7.3 Hz), 3.01 (br s, 6H).

reactant | α-[(Dimethylamino)methylene]-β-oxo-N-phenylbenzenepropanamide | CN(C)C=C(C(=O)NC1=CC=CC=C1)C(C1=CC=CC=C1)=O | C18H18N2O2
reactant | 2-benzoylacetanilide | 4.55 mmol, 1.088 g | C(C1=CC=CC=C1)(=O)CC(=O)NC1=CC=CC=C1 | C15H13NO2
reactant | N,N-dimethylformamide dimethyl acetal | 5.63 mmol, 0.75 mL, 670 mg | COC(N(C)C)OC | C5H13NO2
reactant | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | α-[[(4-Ethoxyphenyl)amino]methylene]-β-oxo-N-phenylbenzenepropanamide | 797 mg, 61% | C(C)OC1=CC=C(C=C1)NC=C(C(=O)NC1=CC=CC=C1)C(C1=CC=CC=C1)=O | C24H22N2O3
